US04110447
A solution of 27.1 g of 4-(4'-fluoro-4-biphenylyl)-pentanoic acid amide [obtainable by reacting 4-fluorobiphenyl with succinic anhydride/AlCl3 to give 4-(4'-fluoro-4-biphenylyl)-4-oxobutanoic acid, reaction with CH3MgI to give 4-(4'-fluoro-4-biphenylyl)-4-hydroxy-pentanoic acid, dehydroxylation with HI/acetic acid to give 4-(4'-fluoro-4-biphenylyl)-pentanoic acid, conversion into the chloride employing SOCl2 and reaction with NH3 ] in 150 ml of dioxane is added dropwise at 0° to a solution of 24 g of bromine in 120 ml of 20% potassium hydroxide solution. The mixture is stirred for a further 1 hour, taken up in ether, the phases are separated and the organic phase is dried over sodium sulfate and evaporated. The crude product obtained is boiled for 20 hours with 60 g of KOH, 250 ml of methanol and 65 ml of water, in the course of which 3-(4' -fluoro-4-biphenylyl)-butyl-isocyanate, which is not isolated, is formed. After cooling, the mixture is worked up using water and ether to give 3-(4'-fluoro-4-biphenylyl)-butylamine, hydrochloride; m.p. 222°-224°.

reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | NH3 | N | H3N
reactant | bromine | 24 g | BrBr | Br2
reactant | 3-(4' -fluoro-4-biphenylyl)-butyl-isocyanate | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN=C=O)C | C17H16FNO
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | potassium hydroxide | 120 ml | [OH-].[K+]
solvent | ether | CCOCC | C4H10O
solvent | KOH | 60 g | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 65 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 3-(4'-fluoro-4-biphenylyl)-butylamine, hydrochloride | Cl.FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)C | InChI=1S/C16H18FN.ClH/c1-12(10-11-18)13-2-4-14(5-3-13)15-6-8-16(17)9-7-15;/h2-9,12H,10-11,18H2,1H3;1H
